US09145433B2
6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)imidazo[1,2-a]pyridine-3-carboxamide (290 mg) and DMF.DMA (5 mL) were heated at 95° C. and stirred in a screw capped vial overnight. The pale yellow homogeneous reaction mixture was cooled to room temperature and concentrated the heterogeneous slurry by rotary evaporator under vacuum. The off-white solid residue was transferred to a screw capped vial, treated with AcOH (3 mL) dropwise for 3 min followed by N2H4.H2O (0.05 mL) and heated for 1 h at 90° C. The homogeneous reaction mixture was concentrated, diluted with ice/water and allowed the resulting suspension warm to room temperature. Upon filtration, the collected solid was neutralized with aq. NaHCO3 and filtered again to obtain 6-(2-(3-chloro-4-fluorophenyl)pyridin-3-yl)-3-(1H-1,2,4-triazol-5-yl)imidazo[1,2-a]pyridine as an off-white solid (220 mg). 1H NMR (300 MHz, DMSO-d6): δ 14.03 (br s, 1H), 9.46 (dd, J=1.9, 1.0 Hz, 1H), 8.79-8.70 (m, 1H), 8.70-8.52 (m, 1H), 8.18 (s, 1H), 8.02 (dd, J=7.8, 1.6 Hz, 1H), 7.67 (dd, J=6.2, 1.4 Hz, 1H), 7.61 (dd, J=9.3, 1.0 Hz, 1H), 7.56 (dd, J=7.8, 4.7 Hz, 1H), 7.28 (d, J=0.7 Hz, 1H), 7.27-7.20 (m, 1H), 7.04 (dd, J=9.3, 1.8 Hz, 1H). 19F NMR (282 MHz, DMSO-d6): δ −114.49-−119.56 (m). LCMS: rt 4.70 min (A), purity 99%, MS (m/e) 391 MH+.

reactant | 6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)imidazo[1,2-a]pyridine-3-carboxamide | 290 mg | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N(C1)C(=CN2)C(=O)N | C19H12ClFN4O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 6-(2-(3-chloro-4-fluorophenyl)pyridin-3-yl)-3-(1H-1,2,4-triazol-5-yl)imidazo[1,2-a]pyridine | 220 mg | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N(C1)C(=CN2)C2=NC=NN2 | C20H12ClFN6
